US09079922B2
5.1. 7-chloro-1-cyclopropyl-6-fluoro-1H-[1,8]naphthyridin-4-one
7-chloro-1-cyclopropyl-6-fluoro-4-oxo-1,4-dihydro-[1,8]naphthyridine-3-carboxylic acid (2.0 g) was added portionwise to a boiling solution of Dowtherm (50 ml heated at 250° C.) and further stirred at this temperature for 1 h. The reaction mixture was allowed to reach rt and diluted with 1N NaOH (100 ml) and extracted with EA. The org. phase was discarded. The aq. phase was acidified with 3N HCl and extracted with ether/EA. The aq. layer was filtered and the filtrate was extracted with ether/EA. The combined org. layers were washed with water and brine dried over MgSO4, filtered and evaporated under reduced pressure affording a solid which was stirred in Hept/EA and filtered. The filtrate was concentrated under reduced pressure and purified by CC (EA to EA/MeOH 9:1), affording a beige solid.

reactant | 7-chloro-1-cyclopropyl-6-fluoro-4-oxo-1,4-dihydro-[1,8]naphthyridine-3-carboxylic acid | 2.0 g | ClC1=C(C=C2C(C(=CN(C2=N1)C1CC1)C(=O)O)=O)F | C12H8ClFN2O3
reactant | Dowtherm | 50 ml | C1=CC=C(C=C1)C2=CC=CC=C2.C1=CC=C(C=C1)OC2=CC=CC=C2
reactant | EA | CC(OCC)=O | C4H8O2
solvent | NaOH | 1N, 100 ml | [OH-].[Na+]
product | 7-chloro-1-cyclopropyl-6-fluoro-1H-[1,8]naphthyridin-4-one | ClC1=C(C=C2C(C=CN(C2=N1)C1CC1)=O)F | C11H8ClFN2O
